US07968725B2
g) 2-[2-[Isobutyl-(4-trifluoromethyl-phenyl)-amino]-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pentanoic acid methyl ester
A solution of 2-[2-[isobutyl-(4-trifluoromethyl-phenyl)-amino]-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pent-4-enoic acid methyl ester (40 mg, 0.07 mmol), Pd/C (10%, 5 mg) in methanol (10 mL) was hydrogenated for 4 h. The mixture was filtered through Celite, washed with methanol, evaporated. The residue was dissolved in CH2Cl2, filtered and evaporated to give the product as colorless oil (40 mg, 100%). 1H NMR (300 MHz, CDCl3) δ 8.12 (d, J=8.29 Hz, 2H), 7.70 (d, J=8.29 Hz, 2H), 7.64 (d, J=8.67 Hz, 2H), 7.38 (d, J=8.67 Hz, 2H), 7.18 (s, 1H), 6.57 (s, 1H), 3.96 (d, J=7.16 Hz, 2H), 3.66 (s, 3H), 2.10-2.23 (m, 1H), 1.90 (dt, J=7.72, 13.56 Hz, 1H), 1.62 (dt, J=6.92, 13.66 Hz, 1H), 1.40-1.52 (m, 1H), 0.97 (d, J=6.78 Hz, 6H), 0.89 (dd, J=4.33, 6.59 Hz, 5H). MS m/e 567.3 (M+H).

reactant | 2-[2-[isobutyl-(4-trifluoromethyl-phenyl)-amino]-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pent-4-enoic acid methyl ester | 0.07 mmol, 40 mg | COC(C(CC(=C)C)C1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)N(C1=CC=C(C=C1)C(F)(F)F)CC(C)C)=O | C30H30F6N2O2
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 5 mg | [Pd] | Pd
product | 2-[2-[Isobutyl-(4-trifluoromethyl-phenyl)-amino]-6-(4-trifluoromethyl-phenyl)-pyridin-4-yl]-4-methyl-pentanoic acid methyl ester | 40 mg, 100% | COC(C(CC(C)C)C1=CC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)N(C1=CC=C(C=C1)C(F)(F)F)CC(C)C)=O | C30H32F6N2O2
